US05068300
Z-1-(4-Carboxyphenyl)-2-(4'-carboxybiphenyl-4-yl)-ethene
31.2 g of 1-(4-Carbo-tert.-butoxyphenyl)-2-(4'-carbethoxybiphenyl-4-yl)-ethene in 150 ml of absolute toluene are boiled under reflux for 3 hours with 1 g of p-toluene sulphonic acid. The reaction mixture is then evaporated to dryness, 8.68 g of NaOH in 100 ml of H2O and 100 ml of ethanol are added, and the mixture is boiled for 4 hours. It is then filtered hot after the addition of active charcoal, diluted with 200 ml of H2O and extracted twice with CH2Cl2, and the product is precipitated from the aqueous phase with conc. HCl.

reactant | 1-(4-Carbo-tert.-butoxyphenyl)-2-(4'-carbethoxybiphenyl-4-yl)-ethene | 31.2 g | C(=O)(OC(C)(C)C)C1=CC=C(C=C1)C=CC1=CC=C(C=C1)C1=CC=C(C=C1)C(=O)OCC | C28H28O4
reactant | p-toluene sulphonic acid | 1 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | toluene | 150 ml | C1(=CC=CC=C1)C | C7H8
product | Z-1-(4-Carboxyphenyl)-2-(4'-carboxybiphenyl-4-yl)-ethene | C(=O)(O)C1=CC=C(C=C1)\C=C/C1=CC=C(C=C1)C1=CC=C(C=C1)C(=O)O | C22H16O4
